US07034042B2
A solution of {(R)-2-[(E)-3-(5-cyano-2-methoxy-phenyl)-acryloylamino]-3-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-propyl}-carbamic acid tert-butyl ester (0.39 g, 0.71 mmol) in DCM (2 ml) is treated with 4M hydrogen chloride in dioxane (1 ml). The reaction mixture is stirred at room temperature for 1.5 hours and then the solvent evaporated. The residue is co-evaporated with ethanol (×2) to afford (E)-N-{(R)-1-aminomethyl-2-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-ethyl}-3-(5-cyano-2-methoxy-phenyl)-acrylamide.HCl salt. [MH]+ 453.2.

reactant | {(R)-2-[(E)-3-(5-cyano-2-methoxy-phenyl)-acryloylamino]-3-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-propyl}-carbamic acid tert-butyl ester | 0.71 mmol, 0.39 g | C(C)(C)(C)OC(NC[C@H](CN1CCC(CC1)OC1=CC=C(C=C1)F)NC(\C=C\C1=C(C=CC(=C1)C#N)OC)=O)=O | C30H37FN4O5
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (E)-N-{(R)-1-aminomethyl-2-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-ethyl}-3-(5-cyano-2-methoxy-phenyl)-acrylamide | NC[C@H](CN1CCC(CC1)OC1=CC=C(C=C1)F)NC(\C=C\C1=C(C=CC(=C1)C#N)OC)=O | C25H29FN4O3
